US08497274B2
(iv) Production of N-(3-{[2-(acetylamino)-7-nitro-1,3-benzothiazol-6-yl]oxy}phenyl)-2,2,2-trifluoroacetamide
To a solution of N-{3-[(2-amino-7-nitro-1,3-benzothiazol-6-yl)oxy]phenyl}-2,2,2-trifluoroacetamide (1.2 g, 3.0 mmol) in tetrahydrofuran (20 mL) were added pyridine (2.4 mL, 30 mmol) and acetyl chloride (340 μL, 4.8 mmol), and the mixture was stirred at room temperature for 8 hr. The reaction mixture was diluted with ethyl acetate (200 mL), washed successively with water (100 mL), 5% aqueous sodium hydrogen carbonate solution (100 mL) and saturated brine (100 mL), and dried over anhydrous sodium sulfate. Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by basic silica gel column chromatography (ethyl acetate/n-hexane=50/50→100/0), and the obtained solution was concentrated under reduced pressure to give the title compound as a yellow powder. This was directly used for the next reaction without further purification.

reactant | N-{3-[(2-amino-7-nitro-1,3-benzothiazol-6-yl)oxy]phenyl}-2,2,2-trifluoroacetamide | 3.0 mmol, 1.2 g | NC=1SC2=C(N1)C=CC(=C2[N+](=O)[O-])OC=2C=C(C=CC2)NC(C(F)(F)F)=O | C15H9F3N4O4S
reactant | pyridine | 30 mmol, 2.4 mL | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 4.8 mmol, 340 μL | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | N-(3-{[2-(acetylamino)-7-nitro-1,3-benzothiazol-6-yl]oxy}phenyl)-2,2,2-trifluoroacetamide | C(C)(=O)NC=1SC2=C(N1)C=CC(=C2[N+](=O)[O-])OC=2C=C(C=CC2)NC(C(F)(F)F)=O | C17H11F3N4O5S
